US08293735B2
(R)-4-(2-Chloro-acetyl)-3-hydroxymethyl-piperazine-1-carboxylic acid tert-butyl ester
To a solution of (R)-3-hydroxymethyl-piperazine-1-carboxylic acid tert-butyl ester (795 mg, 3.68 mmol) in DCM (20 mL) was added triethylamine (1.53 mL, 11.04 mmol). The resulting mixture was cooled to 0° C. before the dropwise addition of chloroacetyl chloride (325 μL, 4.05 mmol). The mixture was warmed to RT and stirred for 5 h. The reaction mixture was partitioned between a saturated aqueous solution of NaHCO3 and DCM. The organic layer was separated and the aqueous layer extracted with DCM. The combined organic fractions were dried (Na2SO4) and concentrated in vacuo. The resulting residue was purified by column chromatography to give the title compound as a colourless oil which was a mixture of rotamers (710 mg, 66%).

reactant | (R)-3-hydroxymethyl-piperazine-1-carboxylic acid tert-butyl ester | 3.68 mmol, 795 mg | C(C)(C)(C)OC(=O)N1C[C@@H](NCC1)CO | C10H20N2O3
reactant | triethylamine | 11.04 mmol, 1.53 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 4.05 mmol, 325 μL | ClCC(=O)Cl | C2H2Cl2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-(2-Chloro-acetyl)-3-hydroxymethyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](N(CC1)C(CCl)=O)CO | C12H21ClN2O4
